US04777279
(3R,6S)-3-isopropyl-6-(2-(3-methylpropoxymethylphosphoryl)ethyl)-2,5-dimethoxy-3,6-dihydropyrazine
5.53 g (0.03 mol) of (3R)-(-)-3-isopropyl-2,5-dimethoxy-3,6-dihydropyrazine ([α]D25 =-107.5°, c=1 in ethanol) are dissolved in 50 ml of absolute tetrahydrofuran, and 20.6 ml of a 1.6-molar solution of n-butyllithium in n-hexane are added at -75° C. The reaction mixture is stirred at -75° C. for 15 minutes. A solution, previously cooled to -60° C., of 6.1 g (0.031 mol) of 2-methylpropyl 2-chloroethyl(methyl)phosphinate in 30 ml of tetrahydrofuran is added dropwise in the course of 7 minutes at -75° C. The reaction mixture is stirred for 6 hours at -75° C. and then for 14 hours at room temperature. The solvent is removed completely in vacuo and the residue is taken up in 60 ml of diethyl ether. This solution is extracted once with 60 ml of water and once with 30 ml of saturated sodium chloride solution. The organic phase is dried over MgSO4 and completely freed from solvents. The residue is distilled in a high vacuum. This gives 8.84 g (85.1% of theory) of (3R,6S)-3-isopropyl-6-[2-(3-methylpropoxymethylphosphoryl)ethyl]-2,5-dimethoxy-3,6-dihydropyrazine as a low-melting solid of boiling point 155°-162° C./0.001 bar.

reactant | (3R)-(-)-3-isopropyl-2,5-dimethoxy-3,6-dihydropyrazine | 0.03 mol, 5.53 g | C(C)(C)[C@@H]1C(=NCC(=N1)OC)OC | C9H16N2O2
reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-methylpropyl 2-chloroethyl(methyl)phosphinate | 0.031 mol, 6.1 g | ClCCP(OCC(C)C)(=O)C | C7H16ClO2P
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
product | (3R,6S)-3-isopropyl-6-(2-(3-methylpropoxymethylphosphoryl)ethyl)-2,5-dimethoxy-3,6-dihydropyrazine | C(C)(C)[C@@H]1C(=N[C@H](C(=N1)OC)CC=P(=O)COCCCC)OC | C16H29N2O4P
